US04042610
Bis(trimethylsilylmethyl)vanadium bis(dimethylamide)
A small amount of vanadium tetrakis(dimethylamide) was dissolved in pentane, and an excess of trimethylsilylmethyllithium was added. Lithium dimethylamide precipitated. The mixture was filtered and the esr spectrum was recorded. An eight-line spectrum was observed at g = 1.973 ± 0.001 with a hyperfine coupling constant to vanadium of 60.3 G. This coupling constant is midway between V(NMe2)4 (65.1 G) and (Me3SiCH2)4V (55 G). This spectrum implied the existence of bis(trimethylsilylmethyl)vanadium bis(dimethylamide) in solution.

reactant | vanadium tetrakis(dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[V+4]
reactant | trimethylsilylmethyllithium | C[Si](C)(C)C[Li]
solvent | pentane | CCCCC | C5H12
product | Bis(trimethylsilylmethyl)vanadium bis(dimethylamide) | C[N-]C.C[N-]C.C[Si](C)(C)C[V+2]C[Si](C)(C)C | InChI=1S/2C4H11Si.2C2H6N.V/c2*1-5(2,3)4;2*1-3-2;/h2*1H2,2-4H3;2*1-2H3;/q;;2*-1;+2
